US04267176
A mixture of S-methyl 2-(6-formamidopyridin-3-yl)thioglyoxylate (13 g.), methanol (50 ml.), 1 N aqueous solution of sodium hydroxide (58 ml.) and water (150 ml.) was stirred at ambient temperature for 30 minutes. To the mixture was added O-methylhydroxylamine hydrochloride (4.85 g.) and then stirred for an hour. The reaction mixture was adjusted to pH 7 with an aqueous solution of sodium bicarbonate, and the methanol was removed by distillation under reduced pressure. The remaining aqueous solution was washed with ethyl acetate and thereto was added ethyl acetate. The resultant mixture was adjusted to pH 2 with 10% hydrochloric acid and thereto was added sodium chloride, and the mixture was stirred for a while. The precipitates were collected by filtration washed with diisopropyl ether and then dried to give 2-(2-formamidopyridin-3-yl)-2-methoxyiminoacetic acid (syn isomer) (2.0 g.), mp. 159° to 161° C. (dec.).

reactant | S-methyl 2-(6-formamidopyridin-3-yl)thioglyoxylate | 13 g | C(=O)NC1=CC=C(C=N1)C(C(=O)SC)=O | C9H8N2O3S
reactant | sodium hydroxide | 58 ml | [OH-].[Na+]
reactant | O-methylhydroxylamine hydrochloride | 4.85 g | Cl.CON
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | methanol | 50 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
product | 2-(2-formamidopyridin-3-yl)-2-methoxyiminoacetic acid | 2.0 g | C(=O)NC1=NC=CC=C1C(C(=O)O)=NOC | C9H9N3O4
